US07629474B2
Synthesis of (2S)-2-((4R)-2-oxo-4-n-propyl-1-pyrrolidinyl)butanamide
Example 1 is repeated except that in step 1.1 a solution of (2S)-2-aminobutyramide.HCl in isopropanol is used (27.72 g, 1.2 equivalent), which is neutralised with a NH3/isopropanol solution (3.4-3.7 mol/L). The resulting ammonium chloride is removed from this solution by filtration and the solution is directly used for reaction with 5-hydroxy-4-n-propyl-furan-2-one (23.62 g, 1.0 equivalent) without intermediate drying of the (2S)-2-aminobutyramide solution. Yield after separation of the two diastereoisomers and recrystallisation: approximately 84%.

reactant | (2S)-2-aminobutyramide | N[C@H](C(=O)N)CC | C4H10N2O
reactant | HCl | Cl | ClH
reactant | NH3 isopropanol | 3.4-3.7 mol/L | N.C(C)(C)O
reactant | 5-hydroxy-4-n-propyl-furan-2-one | 23.62 g, 1.0 equivalent | OC1=C(CC(O1)=O)CCC | C7H10O3
solvent | isopropanol | C(C)(C)O | C3H8O
product | (2S)-2-((4R)-2-oxo-4-n-propyl-1-pyrrolidinyl)butanamide | O=C1N(C[C@@H](C1)CCC)[C@H](C(=O)N)CC | C11H20N2O2
